US20010036946A1
a) N,N-dimethyl-4-fluoro-γ-oxobenzenebutanoic acid amide
To a solution of 30.5 g (0.155 Mol) of 4-fluoro-γ-oxobenzenebutanoic acid in 470 ml tetrahydrofuran, 35.0 g (0.216 Mol) of N,N′-carbonyldiimidazole was added with stirring and at room temperature and held at room temperature for a further 2.5 hours. Then, 13.7 g (0.304 Mol) of dimethylamine was added under strong external cooling by means of an ice-ethanol mixture. After the mixture had stood at room temperature for 12 hours, the solvent was removed in vacuo, the residue was divided between dichloromethane and 10% aqueous citric acid solution, the organic phase was dried over sodium sulphate and once again evaporated down in vacuo. After purification by column chromatography (eluant: ethyl acetate) on silica gel the crude product yielded 30.22 g (87% of theory) of colourless crystals of Rf=0.31 (eluant: ethyl acetate/glacial acetic acid 99.99/0.01). IR(KBr): 1680, 1647 cm−1 (C═O)

reactant | 4-fluoro-γ-oxobenzenebutanoic acid | 0.155 Mol, 30.5 g | FC1=CC=C(C=C1)C(CCC(=O)O)=O | C10H9FO3
reactant | dimethylamine | 0.304 Mol, 13.7 g | CNC | C2H7N
solvent | tetrahydrofuran | 470 ml | O1CCCC1 | C4H8O
product | N,N-dimethyl-4-fluoro-γ-oxobenzenebutanoic acid amide | CN(C(CCC(C1=CC=C(C=C1)F)=O)=O)C | C12H14FNO2
